US04002691
The procedure of Example I was repeated on a larger scale by reacting 195 mmoles of allylmagnesium bromide in diethyl ether with 218 mmoles of bicyclo[2.2.1]hepta-2,5-diene at 125° C. for 3 hours. After the oxidation and hydrolysis, distillation gave tricyclo[4.2.1.02.5 ]non-7-en-3-yl-methanol (b.p. 97°-99° C. at 1 mm Hg) in 73 percent yield based on the allylmagnesium bromide.

reactant | allylmagnesium bromide | 195 mmoles | C(C=C)[Mg]Br
reactant | bicyclo[2.2.1]hepta-2,5-diene | 218 mmoles | C12C=CC(C=C1)C2 | C7H8
reactant | diethyl ether | C(C)OCC | C4H10O
product | tricyclo[4.2.1.02.5 ]non-7-en-3-yl-methanol | 73 percent yield | C12C3C(CC3C(C=C1)C2)CO | C10H14O
